US08808703B2
To a solution of (S)-2-azido-3-(hexadecyloxy)propan-1-ol (1 eq) and pyridine (4 eq) in DCM (0.1 M) at 0° C., was added Tf2O (2 eq). The reaction was stirred at 0° C. for 1 hour and quenched by H2O. The aqueous phase was extracted with DCM. The combined organic phases were washed with H2O, and the aqueous phase was back extracted with DCM. The combined organic phases were washed with saturated NaHCO3 and brine, dried over anhydrous Na2SO4 and concentrated en vaccuo. The resulting crude was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% EtOAc/Hex to give (R)-2-azido-3-(hexadecyloxy)propyl trifluoromethanesulfonate.

reactant | (S)-2-azido-3-(hexadecyloxy)propan-1-ol | 1 eq | N(=[N+]=[N-])[C@@H](CO)COCCCCCCCCCCCCCCCC | C19H39N3O2
reactant | pyridine | 4 eq | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 2 eq | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | (R)-2-azido-3-(hexadecyloxy)propyl trifluoromethanesulfonate | FC(S(=O)(=O)OC[C@@H](COCCCCCCCCCCCCCCCC)N=[N+]=[N-])(F)F | C20H38F3N3O4S
